US09399647B2
To a mixture of 2-amino-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide (30 g, 0.153 mol) and triethylamine (18.5 g, 0.183 mol) in DCM (200 ml) was added chloro-acetyl chloride (20.57 g, 0.183 mol) slowly at 0° C., and the resulting mixture was stirred at room temperature for 2 h. The reaction mixture was concentrated to half of the volume to afford the solid product which was filtered, washed with 10 ml of DCM and dried to provide 2-(2-chloro-acetylamino)-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid amide (35 g, 84%) as off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 1.65-1.75 (m, 4H), 2.58-2.72 (m, 4H), 4.49 (s, 2H), 7.29 (s, 1H), 7.42 (s, 1H), 12.23 (s, 1H); LC-MS: [M+H]=272.8, 275.1, 257.9 & 255.9 m/z.

reactant | 2-amino-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 0.153 mol, 30 g | NC=1SC2=C(C1C(=O)N)CCCC2 | C9H12N2OS
reactant | triethylamine | 0.183 mol, 18.5 g | C(C)N(CC)CC | C6H15N
reactant | chloro-acetyl chloride | 0.183 mol, 20.57 g | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-chloro-acetylamino)-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid amide | 35 g, 84% | ClCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C11H13ClN2O2S
